US08431596B2
N-(4-Chloro-benzyl)-3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzamide (XX-462)
To a stirred solution of 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzoic acid (50 mg, 0.113 mmol), 4-chlorobenzylamine (27.5 μL, 0.226 mmol), EDC (44 mg, 0.226 mmol) and di-isopropylethylamine (98.5 μL, 0.564 mmol) was added HOBt (31 mg, 0.226 mmol). The mixture was stirred overnight at room temperature, and the desired product purified by preparatory HPLC. RT: 4.63 min, MI: 567.31, Method: basic. 1H NMR (DMSO, 300 MHz): 9.43 (s, 1H), 9.22 (t, 1H), 8.58 (s, 1H), 8.19 (t, 1H), 8.03 (d, 1H), 7.63 (m, 6H), 7.36 (s, 3H), 7.24 (dd, 1H), 6.84 (d, 2H), 4.50 (d, 2H), 3.99 (t, 2H), 2.81 (t, 2H), 2.50 (d, 2H), 2.36 (s, 2H), 1.69 (m, 4H).

reactant | 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzoic acid | 0.113 mmol, 50 mg | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=C(C(=O)O)C=CC2)=N1 | C25H25N5O3
reactant | 4-chlorobenzylamine | 0.226 mmol, 27.5 μL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | EDC | 0.226 mmol, 44 mg
reactant | di-isopropylethylamine | 0.564 mmol, 98.5 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBt | 0.226 mmol, 31 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | N-(4-Chloro-benzyl)-3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzamide | ClC1=CC=C(CNC(C2=CC(=CC=C2)C2=CC=CC=3N2N=C(N3)NC3=CC=C(C=C3)OCCN3CCCC3)=O)C=C1 | C32H31ClN6O2
